data/rdb19/train.csv
rxn,smiles,ea
4008,[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:6](=[O:7])[O:8][C:9]([H:21])([H:22])[H:23])([H:13])[H:14])([H:10])([H:11])[H:12].[C:24]([C:25]([C:26]([H:27])[N:28]([C:29](=[O:30])[H:37])[H:36])([H:34])[H:35])([H:31])([H:32])[H:33]>>[C:1]([C:2]([C:3]([C:5]([H:18])([H:19])[H:20])([C:6](=[O:7])[O:8][C:9]([H:21])([H:22])[H:23])[C:26]([C:25]([C:24]([H:31])([H:32])[H:33])([H:34])[H:35])([H:27])[N:28]([C:29](=[O:30])[H:37])[H:36])([H:13])[H:14])([H:10])([H:11])[H:12].[C:4]([H:15])([H:16])[H:17],70.29145343048731
1426,[C:10]([C:11]([C:12]([C:13]([H:23])([H:24])[H:25])[C:14](=[O:15])[O:16][C:17]([H:26])([H:27])[H:28])([H:21])[H:22])([H:18])([H:19])[H:20].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[C:10]([C:11](=[C:12]([C:13]([H:23])([H:24])[H:25])[C:14](=[O:15])[O:16][C:17]([H:26])([H:27])[H:28])[H:21])([H:18])([H:19])[H:20].[O:1]([C:2](=[O:3])[C:4]([C:5]([H:8])([H:9])[H:22])[H:7])[H:6],30.36394362023566
3481,[C:17]([O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:17]([O:18][C:19]=[C:20]([H:25])[H:26])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[H:24])([H:9])[H:10])([H:6])([H:7])[H:8],26.05968938212027
2279,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:22])([H:23])[H:24])([C:12]([H:25])([H:26])[H:27])[C:13](=[O:14])[O:15][C:16]([H:28])([H:29])[H:30])([H:20])[H:21])([H:17])([H:18])[H:19]>>[C:1]([C:2]([H:3])([H:4])[C:11]([H:22])([H:23])[H:24])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:12]([H:25])([H:26])[H:27])[C:13](=[O:14])[O:15][C:16]([H:28])([H:29])[H:30])([H:20])[H:21])([H:17])([H:18])[H:19],50.5624588849023
508,[C:1]([O:2][O:3])([H:4])([H:5])[H:6].[C:7]([C:8]([C:9]([C:10]([H:21])([H:22])[H:23])([O:11][C:12](=[O:13])[C:14]([H:24])([H:25])[H:26])[H:20])([H:18])[H:19])([H:15])([H:16])[H:17]>>[C:1]([O:2][O:3][H:24])([H:4])([H:5])[H:6].[C:7]([C:8]([C:9]([C:10]([H:21])([H:22])[H:23])([O:11][C:12](=[O:13])[C:14]([H:25])[H:26])[H:20])([H:18])[H:19])([H:15])([H:16])[H:17],28.8331301988801
1768,[C:15]([C:16]([C:17](=[C:18]([H:25])[H:26])[H:24])([H:22])[H:23])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:15]([C:16]([C:17](=[C:18]([H:25])[H:26])[H:24])[H:23])([H:19])([H:20])[H:21].[C:1]([C:2](=[C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10].[H:12][H:22],55.62544208212057
476,[C:1]([O:2][O:3])([H:4])([H:5])[H:6].[C:7]([C:8]([C:9]([C:10]([H:23])([H:24])[H:25])([c:11]1[c:12]([H:26])[c:13]([H:27])[c:14]([H:28])[c:15]([H:29])[c:16]1[H:30])[H:22])([H:20])[H:21])([H:17])([H:18])[H:19]>>[C:1]([O:2][O:3][H:25])([H:4])([H:5])[H:6].[C:7]([C:8]([C:9]([C:10]([H:23])[H:24])([c:11]1[c:12]([H:26])[c:13]([H:27])[c:14]([H:28])[c:15]([H:29])[c:16]1[H:30])[H:22])([H:20])[H:21])([H:17])([H:18])[H:19],27.704465805727523
14,[C:12]([C:13]([C:14]([C:15]([H:24])([H:25])[H:26])([C:16]([C:17]([H:29])([H:30])[H:31])([H:27])[H:28])[H:23])([H:21])[H:22])([H:18])([H:19])[H:20].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:12]([C:13]([C:14]([C:15]([H:24])([H:25])[H:26])([C:16]([H:27])[H:28])[H:23])([H:21])[H:22])([H:18])([H:19])[H:20].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[C:17]([H:29])([H:30])[H:31])([H:6])([H:7])[H:8],61.79186139354715
3722,[C:17](=[C:18]([c:19]1[c:20]([H:28])[c:21]([H:29])[c:22]([H:30])[c:23]([H:31])[c:24]1[H:32])[H:27])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:4])([C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[C:21]1([H:29])[C:20]([H:28])=[C:19]([C:18](=[C:17]([H:25])[H:26])[H:27])[C:24]([H:32])=[C:23]([H:31])[C:22]1[H:30])([H:10])[H:11])([H:7])([H:8])[H:9],22.141043649986383
1497,[C:10]([C:11]([C:12]([H:13])[H:14])([c:15]1[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]1[H:29])[H:24])([H:21])([H:22])[H:23].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[H:7][C:12]([C:11]([C:10]([H:21])([H:22])[H:23])([c:15]1[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]1[H:29])[H:24])([H:13])[H:14].[O:1]([C:2](=[O:3])[C:4]=[C:5]([H:8])[H:9])[H:6],24.85044808249222
362,[C:4]([C:5]([C:6]([C:7]([H:20])([H:21])[H:22])([c:8]1[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]1[H:27])[H:19])([H:17])[H:18])([H:14])([H:15])[H:16].[O:1]([O:2])[H:3]>>[C:7]([H:20])([H:21])[H:22].[O:1]([O:2][C:6]([C:5]([C:4]([H:14])([H:15])[H:16])([H:17])[H:18])([c:8]1[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]1[H:27])[H:19])[H:3],65.97484931646613
1915,[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7].[O:11][H:12]>>[N:1]([C:2]([O:3])([C:4](=[C:5]([H:9])[H:10])[H:8])[O:11][H:12])([H:6])[H:7],19.50065842570621
